US06150379
A mixture comprising 5-butylpyridine-2-carboxylic acid (4 g, 22.3 mmol), 3,4-diaminobenzamidine hydrochloride (3.8 g, 20.1 mmol) and polyphosphoric acid (15 mL) was heated at 185° C. for 2.5 hours, cooled and then poured into water (100 mL). The mixture was cooled to 0° C. and neutralized with 50% sodium hydroxide to give a precipitate. The precipitate was isolated by filtration, washed with water and stirred with saturated sodium bicarbonate solution for 30 minutes. The precipitate was again isolated by filtration, washed with water and dissolved in 6N hydrochloric acid (40 mL). The solution was poured into stirring acetone (4 mL) to give a precipitate. The precipitate was dissolved in hot methanol (30 mL) and the solution was diluted sequentially with ethyl acetate (50 mL), ether (200 mL) and acetone (100 mL) to give a tan precipitate. The precipitate was isolated by filtration, washed with acetone (200 mL) and dried to provide 2-(5-butylpyridin-2-yl-1H-benzimidazole-5-carboxamidine (3.45 g, 11.8 mmol). 1H-NMR (300 Mhz, DMSO-d6): 0.8 (m, 3H), 1.3 (m, 2H), 1.6 (m, 2H), 2.7 (m, 2H), 7.85 (m, 2H), 7.97 (dd, 1H, J=8.1 Hz, 1.5 Hz), 8.23 (s, 1H), 8.55 (d, 1H, J=8.1 Hz), 8.69 (d, 1H, J=1.5 Hz); MS (ESI); Calculated for C17H19N5 : 293.3; Found (MH+): 294.1.

reactant | 5-butylpyridine-2-carboxylic acid | 22.3 mmol, 4 g | C(CCC)C=1C=CC(=NC1)C(=O)O | C10H13NO2
reactant | 3,4-diaminobenzamidine hydrochloride | 20.1 mmol, 3.8 g | Cl.NC=1C=C(C(=N)N)C=CC1N
reactant | water | 100 mL | O | H2O
reactant | sodium hydroxide | [OH-].[Na+]
reactant | methanol | 30 mL | CO | CH4O
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
solvent | ether | 200 mL | CCOCC | C4H10O
solvent | acetone | 100 mL | CC(=O)C | C3H6O
product | 5-butylpyridin-2-yl-1H-benzimidazole-5-carboxamidine | 11.8 mmol, 3.45 g | C(CCC)C=1C=CC(=NC1)N1C=NC2=C1C=CC(=C2)C(=N)N | C17H19N5
